US08735593B2
2-chloro-6-(2-chlorophenyl)-4-(trifluoromethyl)pyridine
To a solution of 2-(2-chlorophenyl)-4-(trifluoromethyl)pyridine (5.40 g, 21.0 mmol) in EtOAc (100 mL) was added mCPBA (7.25 g, 42.0 mmol) in EtOAc (100 mL) over 30 min and then the mixture was heated at reflux (caution: use shield) for 3 h. The reaction mixture was cooled and then washed twice with sat. aq. NaHCO3 and concentrated.

reactant | 2-(2-chlorophenyl)-4-(trifluoromethyl)pyridine | 21.0 mmol, 5.40 g | ClC1=C(C=CC=C1)C1=NC=CC(=C1)C(F)(F)F | C12H7ClF3N
reactant | mCPBA | 42.0 mmol, 7.25 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-chloro-6-(2-chlorophenyl)-4-(trifluoromethyl)pyridine | ClC1=NC(=CC(=C1)C(F)(F)F)C1=C(C=CC=C1)Cl | C12H6Cl2F3N
